US05795983
1.7-3 g of ammonia were introduced as a gas with stirring at 20°-50° C. into a solution of 24 g of bentazone (IIa) in 2376 g of 1,2dichloroethane, a suspension being formed. The solid was separated off at 20° C. by filtration and freed from solvent residues under reduced pressure. 25.4 g of bentazone-ammonium (m.p. 180° C.) were obtained.

reactant | ammonia | 1.7-3 g | N | H3N
reactant | bentazone | 24 g | CC(C)N1C(=O)C2=CC=CC=C2NS1(=O)=O | C10H12N2O3S
solvent | 1,2dichloroethane | 2376 g | ClCCCl | C2H4Cl2
product | bentazone ammonium | 25.4 g | CC(C)N1C(=O)C2=CC=CC=C2NS1(=O)=O.[NH4+] | InChI=1S/C10H12N2O3S.H3N/c1-7(2)12-10(13)8-5-3-4-6-9(8)11-16(12,14)15;/h3-7,11H,1-2H3;1H3/p+1
